US07320972B2
4′-{(2S,3R)-3-[(3S)-3-(4-Fluorophenyl)-3-hydroxypropyl]-4-oxo-1-phenylazetidin-2-yl}biphenyl-3-yl trifluoromethanesulfonate (0.15 g, 0.25 mmol), bis(pinacolato)diboron (0.70 g, 0.27 mmol), potassium acetate (0.80 g, 0.81 mmol) and dichloro[1,1′-bis(diphenylphosphino) ferrocene]palladium(II) (0.020 g, 0.03 mmol) were combined in dimethylsulfoxide (7 mL) in a 40-mL screw-cap vial at room temperature. The mixture was covered with a nitrogen atmosphere, the vial was sealed and the reaction was heated overnight at 80° C. The reaction mixture was cooled to room temperature, poured into water and extracted with ethyl acetate. The organic phase was washed successively with water (2×) and brine, dried over sodium sulfate, filtered and the solvent was removed by rotary evaporation under reduced pressure. Pure (3R,4S)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-1-phenyl-4-[3′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)biphenyl-4-yl]azetidin-2-one was obtained as a white foam (0.097 g, 67%) by chromatography over silica gel using ethyl acetate-hexane (gradient: 5% ethyl acetate to 70%) 1H NMR (300 MHz, CDCl3) δ 8.01(br s, 1H), 7.75-7.85 (m, 1H), 7.0-7.7 (m, 15H), 4.74 (t, J=6.2 Hz, 1H), 4.69 (d, J=2.2 Hz, 1H), 3.0-3.2 (m, 1H), 1.50 (br s, 1H), 1.8-2.1 (m, 4H), 1.35 (s, 6H), 1.24 (s, 6H) ppm; MS [M+HCO2−]− 577

reactant | 4′-{(2S,3R)-3-[(3S)-3-(4-Fluorophenyl)-3-hydroxypropyl]-4-oxo-1-phenylazetidin-2-yl}biphenyl-3-yl trifluoromethanesulfonate | 0.25 mmol, 0.15 g | FC(S(=O)(=O)OC=1C=C(C=CC1)C1=CC=C(C=C1)[C@H]1N(C([C@@H]1CC[C@H](O)C1=CC=C(C=C1)F)=O)C1=CC=CC=C1)(F)F | C31H25F4NO5S
reactant | bis(pinacolato)diboron | 0.27 mmol, 0.70 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.81 mmol, 0.80 g | C(C)(=O)[O-].[K+]
reactant | water | O | H2O
solvent | dimethylsulfoxide | 7 mL | CS(=O)C | C2H6OS
catalyst | dichloro[1,1′-bis(diphenylphosphino) ferrocene]palladium(II) | 0.03 mmol, 0.020 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (3R,4S)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-1-phenyl-4-[3′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)biphenyl-4-yl]azetidin-2-one | FC1=CC=C(C=C1)[C@H](CC[C@H]1C(N([C@@H]1C1=CC=C(C=C1)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1)=O)O | C36H37BFNO4
